US06979695B2
(4E)-N-Methyl-N-(tert-butoxycarbonyl)-5-(3-pyridyl)-4-penten-2-amine
A solution of (4E)-N-methyl-5-(3-pyridyl)-4-penten-2-amine (140.6 mg, 0.798 mmol) in dry THF (7 mL, freshly distilled from sodium and benzophenone) was cooled to 0° C. and treated with di-tert-butyl dicarbonate (191.5 mg, 0.878 mmol) under a nitrogen atmosphere. The resulting mixture was stirred and allowed to warm to ambient temperature over 16 h. The solution was concentrated by rotary evaporation and dried under high vacuum for 1 h producing a yellow oil (226.1 mg). The crude product was purified by column chromatography on silica gel (20 g, Merck 70-230 mesh) eluting with CHCl3—CH3OH (95:5, v/v). Selected fractions, containing the product (Rf 0.48), were combined, concentrated by rotary evaporation, and vacuum dried briefly at 1 mm Hg to give 217.9 mg (98.8%) of a yellow oil.

reactant | (4E)-N-methyl-5-(3-pyridyl)-4-penten-2-amine | 0.798 mmol, 140.6 mg | CNC(C)C\C=C\C=1C=NC=CC1 | C11H16N2
reactant | sodium | [Na] | Na
reactant | benzophenone | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
reactant | di-tert-butyl dicarbonate | 0.878 mmol, 191.5 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | C1CCOC1 | C4H8O
product | (4E)-N-Methyl-N-(tert-butoxycarbonyl)-5-(3-pyridyl)-4-penten-2-amine | 226.1 mg | CN(C(C)C\C=C\C=1C=NC=CC1)C(=O)OC(C)(C)C | C16H24N2O2
